US04066681
3,4-Dichloroaniline (19.44 g., 120 mM.) is added with vigorous stirring to a solution of thiophosgene in H2O (100 ml.) while maintaining the temperature at 15° C during the addition. The reaction is allowed to warm slowly to room temperature and is stirred for 1 hr. The aqueous layer is separated and extracted with 3 × 50 ml. CHCl3 ; the combined organic layers are dried over CaCl2 and filtered. The filtrate is evaporated in vacuo to give 3,4-dichlorophenylisothiocyanate (20.5 g.) which is used without purification in the next step.

reactant | 3,4-Dichloroaniline | 120 mM, 19.44 g | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
reactant | thiophosgene | C(=S)(Cl)Cl | CCl2S
solvent | H2O | 100 ml | O | H2O
product | 3,4-dichlorophenylisothiocyanate | 20.5 g | ClC=1C=C(C=CC1Cl)N=C=S | C7H3Cl2NS
